US04265890
To a solution of 1.1 g. (0.0011 mole) of 2-furanthiol in 200 ml. of methanol is added portionwise 2.3 g. (0.0084 mole) of 3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7,8-dione hydrobromide. After stirring for 1 hour at room temperature the reaction mixture is filtered and the filtrate concentrated in vacuo to give 7,8-dihydroxy-6-(2-furylthio)-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide.

reactant | 2-furanthiol | 0.0011 mole | O1C(=CC=C1)S | C4H4OS
reactant | 3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7,8-dione hydrobromide | 0.0084 mole | Br.CN1CCC=2C(CC1)=CC(C(C2)=O)=O
solvent | methanol | CO | CH4O
product | 7,8-dihydroxy-6-(2-furylthio)-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.OC1=C(C2=C(CCN(CC2)C)C=C1O)SC=1OC=CC1 | InChI=1S/C15H17NO3S.BrH/c1-16-6-4-10-9-12(17)14(18)15(11(10)5-7-16)20-13-3-2-8-19-13;/h2-3,8-9,17-18H,4-7H2,1H3;1H
